US07795262B2
Step 4. Preparation of 6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-5,6,7,8-tetrahydropyrido-[3,4-b]pyrazine
To a suspension of 5,6,7,8-tetrahydropyrido[3,4-b]pyrazine (70 mg, 0.518 mmol), NaI (50 mg, 0.333 mmol), and K2CO3 (200 mg, 1.45 mmol) in acetonitrile is added 2-chloro-1-(4-cyclobutyl-piperazin-1-yl)-ethanone (112 mg, 0.518 mmol). The mixture is stirred overnight at rt, diluted with DCM (20 mL) and filtered through Celite. The filtrate is evaporated and the crude product is purified by silica gel chromatography eluting with EtOAc/MeOH/NEt3 (95:5:5) to yield the title compound. 1H NMR (300 MHz, CDCl3) δ 8.35 (2H, dd), 3.85 (2H, s), 3.70-3.66 (m, 4H), 3.46 (2H, s), 3.09 (2H, t), 2.96 (2H, t), 2.75 (1H, m), 2.37-2.34 (4H, m), 2.09-1.67 (m, 6H); MS (+VE) m/z 316.21 (M++1).

reactant | 5,6,7,8-tetrahydropyrido[3,4-b]pyrazine | 0.518 mmol, 70 mg | N1=C2C(=NC=C1)CNCC2 | C7H9N3
reactant | NaI | 0.333 mmol, 50 mg | [Na+].[I-]
reactant | K2CO3 | 1.45 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-1-(4-cyclobutyl-piperazin-1-yl)-ethanone | 0.518 mmol, 112 mg | ClCC(=O)N1CCN(CC1)C1CCC1 | C10H17ClN2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-5,6,7,8-tetrahydropyrido-[3,4-b]pyrazine | C1(CCC1)N1CCN(CC1)C(CN1CC2=NC=CN=C2CC1)=O | C17H25N5O
